US06872718B1
3-Methyl-6-(1-methylethyl)-2-methoxybenzyl alcohol
2-Hydroxymethyl-6-methyl-3-(1-methylethyl)phenol (37.3 g, 207 mmol) was dissolved in THF (350 ml), and then potassium tert-butoxide (22.1 g, 197 mmol) was added. To the mixture was added methyl iodide (19.7 ml, 311 mmol) at 0° C., and the mixture was stirred at room temperature for 16 hours. The reaction mixture was combined with water, made acidic with 1N hydrochloric acid, and extracted with ethyl acetate. The extract was washed with saturated brine, dried over sodium sulfate and purified by column chromatography on a small amount of silica gel which was eluted with ethyl acetate. The solvent was concentrated under reduced pressure, and the residue was crystallized from hexane to obtain 21.7 g of the title compound.

reactant | 2-Hydroxymethyl-6-methyl-3-(1-methylethyl)phenol | 207 mmol, 37.3 g | OCC1=C(C(=CC=C1C(C)C)C)O | C11H16O2
reactant | potassium tert-butoxide | 197 mmol, 22.1 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 311 mmol, 19.7 ml | CI | CH3I
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 350 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-Methyl-6-(1-methylethyl)-2-methoxybenzyl alcohol | 21.7 g, Yield: 54% | CC=1C(=C(CO)C(=CC1)C(C)C)OC | C12H18O2
